US07012075B2
To 2,2,2-trichloroethyl 4-bromo-1-methyl-1H-pyrazol-3-ylcarbamate (2.402 g, 6.83 mmol), 4-methoxybenzyl 2-hydroxy-4-methylpentanoate (3.45 g, 13.67 mmol) and triphenyl phosphine (3.58 g, 13.67 mmol) in dry DMF (50 mL) under dry nitrogen was added dropwise diisopropyl azodicarboxylate (2.7 mL, 13.67 mmol) over 45 minutes and the reaction mixture stirred for 2 days. Water was added and the product extracted with ether (2×), dried over Na2SO4, concentrated in vacuo and purified by flash chromatography over silica gel (EtOAc/Hex, 2/8) to afford 4-methoxybenzyl N-(4-bromo-1-methyl-1H-pyrazol-3-yl)-N-[(2,2,2-trichloroethoxy)carbonyl]leucinate.

reactant | 2,2,2-trichloroethyl 4-bromo-1-methyl-1H-pyrazol-3-ylcarbamate | 6.83 mmol, 2.402 g | BrC=1C(=NN(C1)C)NC(OCC(Cl)(Cl)Cl)=O | C7H7BrCl3N3O2
reactant | 4-methoxybenzyl 2-hydroxy-4-methylpentanoate | 13.67 mmol, 3.45 g | OC(C(=O)OCC1=CC=C(C=C1)OC)CC(C)C | C14H20O4
reactant | triphenyl phosphine | 13.67 mmol, 3.58 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 13.67 mmol, 2.7 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 4-methoxybenzyl N-(4-bromo-1-methyl-1H-pyrazol-3-yl)-N-[(2,2,2-trichloroethoxy)carbonyl]leucinate | BrC=1C(=NN(C1)C)N([C@@H](CC(C)C)C(=O)OCC1=CC=C(C=C1)OC)C(=O)OCC(Cl)(Cl)Cl | C21H25BrCl3N3O5
